US08648066B2
To a solution of 1,1-dimethylethyl 7-(4-amino-3-nitrophenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (10 g, 26 mmol) in dioxane (50 mL) was added hydrogen chloride in dioxane (4 M, 50 mL, 200 mmol), and the mixture was stirred at rt for 16 h. The volatile materials were then removed to provide 2-nitro-4-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)aniline dihydrochloride in quantitative yield. MS (EI) for C15H15N3O3: 286 (MH+).

reactant | 1,1-dimethylethyl 7-(4-amino-3-nitrophenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 26 mmol, 10 g | NC1=C(C=C(C=C1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1)[N+](=O)[O-] | C20H23N3O5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 mmol, 4 M, 50 mL | O1CCOCC1 | C4H8O2
product | 2-nitro-4-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)aniline dihydrochloride | quantitative yield | Cl.Cl.[N+](=O)([O-])C1=C(N)C=CC(=C1)C=1C=CC2=C(CNCCO2)C1 | InChI=1S/C15H15N3O3.2ClH/c16-13-3-1-11(8-14(13)18(19)20)10-2-4-15-12(7-10)9-17-5-6-21-15;;/h1-4,7-8,17H,5-6,9,16H2;2*1H
